US07459562B2
B) N-(4-Methoxybenzyl)-4-(2-fluoro-4-nitrophenoxy)pyrimidin-2-amine
A mixture of 2-chloro-4-(2-fluoro-4-nitrophenoxy)pyrimidine (0.66 g, 2.44 mmol), 4-methoxybenzylamine (0.34 g, 3.45 mmol), K2CO3 (0.37 g, 2.66 mmol), and DMF (15 mL) was heated at 100° C. for 1 h. The mixture was cooled, diluted with H2O (100 mL) and extracted with EtOAc (100 mL). The organic phase was washed twice each with saturated NaHCO3 solution and brine. The organics were dried (MgSO4) and concentrated to give the crude product. Flash chromatography on SiO2 using 1-3% MeOH in CH2Cl2 as the eluent gave the title compound (275 mg, 29%) as a pale yellow solid. 1H NMR (DMSO-d6) δ 8.40-8.21 (m, 2H), 8.16 (dd, 1H, J=8.8, 1.7 Hz), 7.98 (br s, 0.5H), 7.73-7.55 (m, 1.5H), 7.16 (br s, 1H), 6.85-6.71 (m, 3H), 6.37 (s, 1H), 4.43 (br s, 1H), 3.95 (br s, 1H), 3.69 (s, 3H).

reactant | 2-chloro-4-(2-fluoro-4-nitrophenoxy)pyrimidine | 2.44 mmol, 0.66 g | ClC1=NC=CC(=N1)OC1=C(C=C(C=C1)[N+](=O)[O-])F | C10H5ClFN3O3
reactant | 4-methoxybenzylamine | 3.45 mmol, 0.34 g | COC1=CC=C(CN)C=C1 | C8H11NO
reactant | K2CO3 | 2.66 mmol, 0.37 g | C(=O)([O-])[O-].[K+].[K+]
reactant | DMF | 15 mL | CN(C)C=O | C3H7NO
solvent | H2O | 100 mL | O | H2O
solvent | CH2Cl2 | C(Cl)Cl | CH2Cl2
product | N-(4-Methoxybenzyl)-4-(2-fluoro-4-nitrophenoxy)pyrimidin-2-amine | 275 mg, 29% | COC1=CC=C(CNC2=NC=CC(=N2)OC2=C(C=C(C=C2)[N+](=O)[O-])F)C=C1 | C18H15FN4O4
